US06472412B1
To a solution of diisopropylamine (0.16 g) in tetrahydrofuran (2 mL) at −78° C. is added a 2.5 N solution of n-butyl lithium in hexanes (0.62 mL). The solution is allowed to warm to −10° C. and cooled back to −78° C. A solution of 3,5-dichloro-4-methylpyridine (0.25 g) in dry tetrahydrofuran (4 mL) is added, stirred for 0.5 hours at −60° C. and treated with 3-cyclopentyloxy-6-fluoro-4-methoxybenzaldehyde (0.25 g) in dry tetrahydrofuran (4 mL). The reaction mixture is allowed to warm to room temperature over 1 hour and stirred overnight. The mixture is treated with 2N ammonium chloride (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic extracts are washed with brine (50 mL), dried (magnesium sulfate) and evaporated to give 2-(3,5-dichloropyrid-4-yl)-1-(3-cyclopentyloxy-6-fluoro-4-methoxyphenyl)ethanol (0.22 g). [NMR (CDCl3): 8.44 (s, 2H), 6.97(d, 1H, J=7 Hz), 6.56 (d, 1H, J=12 Hz), 5.34 (m, 1H), 4.74 (m, 1H), 3.83 (s, 3H), 3.5 (dd, 1H, J=8 Hz, 8 Hz), 3.32 (dd, 1H, J=5 Hz, 6 Hz), 2.07 (d, 1H, J=6 Hz), 1.93-155 (m, 8H)].

reactant | diisopropylamine | 0.16 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3,5-dichloro-4-methylpyridine | 0.25 g | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | 3-cyclopentyloxy-6-fluoro-4-methoxybenzaldehyde | 0.25 g | C1(CCCC1)OC=1C=C(C=O)C(=CC1OC)F | C13H15FO3
reactant | ammonium chloride | 2N, 50 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | 2-(3,5-dichloropyrid-4-yl)-1-(3-cyclopentyloxy-6-fluoro-4-methoxyphenyl)ethanol | 0.22 g | ClC=1C=NC=C(C1CC(O)C1=CC(=C(C=C1F)OC)OC1CCCC1)Cl | C19H20Cl2FNO3
